US08278331B2
Using a procedure analogous to Example B1, 1,1-cyclopropanedicarboxylic acid (2 g, 15.37 mmol), Et3N (2.14 mL, 15.4 mmol), thionyl chloride (1.12 mL, 15.4 mmol), and 4-fluoro-N-methylaniline (1.83 g, 14.6 mmol) were combined to provide 1-((4-fluorophenyl)(methyl)carbamoyl)cyclopropanecarboxylic acid (2.79 g, 72% yield). MS (ESI) m/z: 260.0 (M+Na+).

reactant | 1,1-cyclopropanedicarboxylic acid | 15.37 mmol, 2 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | Et3N | 15.4 mmol, 2.14 mL | CCN(CC)CC | C6H15N
reactant | thionyl chloride | 15.4 mmol, 1.12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-fluoro-N-methylaniline | 14.6 mmol, 1.83 g | FC1=CC=C(NC)C=C1 | C7H8FN
product | 1-((4-fluorophenyl)(methyl)carbamoyl)cyclopropanecarboxylic acid | 2.79 g, 72% yield | FC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)O)C | C12H12FNO3
